US05629419
To a mixture of (3S)-3-amino-3-carboxypropionic acid methyl ester hydrochloride (155 g), sulfuric acid (433 g), potassium bromide (402 g) and water (1900 ml) is added dropwise a solution of sodium nitrite (69.8 g) in water (150 ml) at a temperature from 10° C. to 12° C. over a period of 45 minutes. After the addition, the mixture is stirred at a temperature from 10° C. to 15° C. for two hours. The reaction solution is extracted with ethyl acetate, and the extract is washed, dried, and concentrated under reduced pressure at a temperature below 35° C. to give (3S)-3-bromo-3-carboxypropionic acid methyl ester (181.5 g) as an oily product.

reactant | (3S)-3-amino-3-carboxypropionic acid methyl ester hydrochloride | 155 g | Cl.COC(C[C@@H](C(=O)O)N)=O
reactant | sulfuric acid | 433 g | S(O)(O)(=O)=O | H2O4S
reactant | potassium bromide | 402 g | [Br-].[K+]
reactant | sodium nitrite | 69.8 g | N(=O)[O-].[Na+]
solvent | water | 150 ml | O | H2O
solvent | water | 1900 ml | O | H2O
product | (3S)-3-bromo-3-carboxypropionic acid methyl ester | 181.5 g | COC(C[C@@H](C(=O)O)Br)=O | C5H7BrO4
